US08053438B2
4-((tert-butyl(dimethyl)silyl)oxy)-1-cyclohexen-1-yl trifluoromethanesulfonate (2.6 g, 7.2 mmol), bis(pinacolato)diboron (2.2 g, 8.7 mmol), potassium acetate (5.3 g, 54.0 mmol), and 1,1′-bis(diphenylphosphino)ferrocene-palladium (ii) dichloride dichloromethane complex (0.18 g, 0.22 mmol) were taken up in 35 mL of dioxane. The mixture was purged with nitrogen and heated to 80° C. After 12 hours, the mixture was diluted with 75 mL of EtOAc and 75 mL of water. The mixture was partitioned and the aqueous portion was extracted with 75 mL of EtOAc. The combined organic extracts were washed with 75 mL of brine and dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (0.5% to 2.5 EtOAc/hexanes) afforded ((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-cyclohexen-1-yl)oxy)silane.

reactant | 4-((tert-butyl(dimethyl)silyl)oxy)-1-cyclohexen-1-yl trifluoromethanesulfonate | 7.2 mmol, 2.6 g | FC(S(=O)(=O)OC1=CCC(CC1)O[Si](C)(C)C(C)(C)C)(F)F | C13H23F3O4SSi
reactant | bis(pinacolato)diboron | 8.7 mmol, 2.2 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 54.0 mmol, 5.3 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 35 mL | O1CCOCC1 | C4H8O2
product | ((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-cyclohexen-1-yl)oxy)silane | CC1(OB(OC1(C)C)C1=CCC(CC1)O[SiH3])C | C12H23BO3Si
